US04510086
4-Nitrobenzyl 6(S)-[1(R)-hydroxyethyl]-7-oxo-3-thioxo-4-thia-1-azabicyclo[3,2,0]heptane-2-carboxylate
To a stirred solution of 0.039 g of 4-nitrobenzyl 3-acetylthio-6(S)-(1(R)-hydroxyethyl)-7-oxo-4-thia-1-azabicyclo[3,2,0]hept-2-en-2-carboxylate in a mixture of 1.5 ml of dioxan and 0.15 ml of water was added 0.0069 g of imidazole at room temperature. After 5 minutes the mixture was diluted with 3 ml of 1M hydrochloric acid and 5 ml of water, and then extracted into ethyl acetate. The combined organic extracts were washed with water and dried over magnesium sulphate. The resulting solution was evaporated to give a mixture of the 5R and 5S isomers of the title compound as a foam.

reactant | 4-nitrobenzyl 3-acetylthio-6(S)-(1(R)-hydroxyethyl)-7-oxo-4-thia-1-azabicyclo[3,2,0]hept-2-en-2-carboxylate | 0.039 g | C(C)(=O)SC1=C(N2C([C@@H](C2S1)[C@@H](C)O)=O)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-] | C17H16N2O7S2
reactant | imidazole | 0.0069 g | N1C=NC=C1 | C3H4N2
solvent | dioxan | 1.5 ml | O1CCOCC1 | C4H8O2
solvent | water | 0.15 ml | O | H2O
solvent | hydrochloric acid | 1M, 3 ml | Cl | ClH
solvent | water | 5 ml | O | H2O
product | 4-Nitrobenzyl 6(S)-[1(R)-hydroxyethyl]-7-oxo-3-thioxo-4-thia-1-azabicyclo[3,2,0]heptane-2-carboxylate | O[C@H](C)[C@@H]1C2SC(C(N2C1=O)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])=S | C15H14N2O6S2
